US08609866B2
Preparation of (Z)-methyl amino-(4-((1-benzylpyrazole-4-carbonylamino)methyl)phenyl)methylenecarbamate
57 mg of 1-benzyl-N-[(4-carbamimidoylphenyl)methyl]pyrazole-4-carboxamide hydrochloride and 59 mg of potassium carbonate were dissolved in 0.72 ml of water and 3.6 ml of tetrahydrofuran. The mixture was stirred at room temperature, and 0.012 ml of methyl chloroformate (Sigma-Aldrich) added. Stirring is continued for 1 h, following which the organic layer is removed, and dried in vacuo to obtain the synthetic target. The mass of the compound was verified using LC/MS/MS.

reactant | 1-benzyl-N-[(4-carbamimidoylphenyl)methyl]pyrazole-4-carboxamide hydrochloride | 57 mg | Cl.C(C1=CC=CC=C1)N1N=CC(=C1)C(=O)NCC1=CC=C(C=C1)C(N)=N
reactant | potassium carbonate | 59 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl chloroformate | 0.012 ml | ClC(=O)OC | C2H3ClO2
solvent | water | 0.72 ml | O | H2O
solvent | tetrahydrofuran | 3.6 ml | O1CCCC1 | C4H8O
product | (Z)-methyl amino-(4-((1-benzylpyrazole-4-carbonylamino)methyl)phenyl)methylenecarbamate | N\C(\C1=CC=C(C=C1)CNC(=O)C=1C=NN(C1)CC1=CC=CC=C1)=N/C(OC)=O | C21H21N5O3
